US07148226B2
N-(4-bromophenyl)-N-methylmethanesulfonamide
Methyl iodide (2.38 g, 0.0382M) was added to a mixture of N-(4-bromophenyl)methanesulfonamide (6.37 g, 0.0255M) and potassium carbonate (5.21 g, 0.0382M) in dimethylformamide (50 ml) at room temperature under an atmosphere of nitrogen. The reaction mixture was stirred for a further 24 hrs after which time it was partitioned between diethylether (100 ml) and water (100 ml). The aqueous was extracted further with diethyl ether (2×100 ml). The combined organics were dried over magnesium sulfate, filtered and the solvent concentrated in vacuuo to afford the title compound as a white solid (5.6 g).

reactant | Methyl iodide | 0.0382M, 2.38 g | CI | CH3I
reactant | N-(4-bromophenyl)methanesulfonamide | 0.0255M, 6.37 g | BrC1=CC=C(C=C1)NS(=O)(=O)C | C7H8BrNO2S
reactant | potassium carbonate | 0.0382M, 5.21 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-(4-bromophenyl)-N-methylmethanesulfonamide | 5.6 g | BrC1=CC=C(C=C1)N(S(=O)(=O)C)C | C8H10BrNO2S
